US06645968B2
Tert-butyl (2R)-2-{1H-1,2,3-benzotriazol-1-yl[(4-chlorobenzoyl)amino]methyl}-1-pyrrolidinecarboxylate
4-Chlorobenzamide, tert-butyl (2R)-formyl-1-pyrrolidinecarboxylate, benzotriazole, and p-toluenesulfonic acid were processed as described in Example 53A to provide the desired product.

reactant | 4-Chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | tert-butyl (2R)-formyl-1-pyrrolidinecarboxylate | C(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Tert-butyl (2R)-2-{1H-1,2,3-benzotriazol-1-yl[(4-chlorobenzoyl)amino]methyl}-1-pyrrolidinecarboxylate | N1(N=NC2=C1C=CC=C2)C([C@@H]2N(CCC2)C(=O)OC(C)(C)C)NC(C2=CC=C(C=C2)Cl)=O | C23H26ClN5O3
